US04107303
1-(cyclopropylcarbonyl)-2,3,4,5-tetrahydro-α,α-bis(trifluoromethyl)-1H-benzazepine-7-methanol.
To 200 ml dry toluene is added 6.3 g (0.020 mole) α,α-bis(trifluoromethyl)-2,3,4,5-tetrahydro-1H-1-benzazepine-7-methanol and 3.0 g (0.025 mole) cyclopropane carboxylic acid chloride. The solution is stirred and heated at reflux under nitrogen for sixteen hours, then cooled and evaporated at reduced pressure. The residual solid is recrystallized from chlorobutane to give 5.0 g, m.p. 165°-167°.

reactant | α,α-bis(trifluoromethyl)-2,3,4,5-tetrahydro-1H-1-benzazepine-7-methanol | 0.020 mole, 6.3 g | FC(C(O)(C=1C=CC2=C(CCCCN2)C1)C(F)(F)F)(F)F | C13H13F6NO
reactant | cyclopropane carboxylic acid chloride | 0.025 mole, 3.0 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(cyclopropylcarbonyl)-2,3,4,5-tetrahydro-α,α-bis(trifluoromethyl)-1H-benzazepine-7-methanol | C1(CC1)C(=O)N1CCCCC2=C1C=CC(=C2)C(O)(C(F)(F)F)C(F)(F)F | C17H17F6NO2
